US07476663B2
(b) 4-chloro-butyl 2-methyl-4-nitro-phenyl-carbamate
17.8 g (0.10 mol) 4-isocyanato-3-methyl-1-nitro-benzene are placed in 750 ml of toluene and a solution of 11.7 ml (0.10 mol) 4-chloro-butan-1-ol in 50 ml of toluene is added dropwise. Then the reaction mixture is heated for 16 hours to 75° C., then evaporated down i. vac. and twice taken up with toluene and concentrated by evaporation completely i. vac. The residue is purified by recrystallisation from cyclohexane.

reactant | 4-isocyanato-3-methyl-1-nitro-benzene | 0.10 mol, 17.8 g | N(=C=O)C1=C(C=C(C=C1)[N+](=O)[O-])C | C8H6N2O3
reactant | 4-chloro-butan-1-ol | 0.10 mol, 11.7 ml | ClCCCCO | C4H9ClO
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-butyl 2-methyl-4-nitro-phenyl-carbamate | CC1=C(C=CC(=C1)[N+](=O)[O-])NC(OCCCCCl)=O | C12H15ClN2O4
